US04661617
Vanillin (3.43 g, 22.5 mmol) in 10 ml of DMF is added portionwise, at 0°, to sodium hydride (21.5 g, 23.6 mmol) in ml of DMF. The mixture is stirred for 10 min. and then ethyl 4-bromo-3-methyl-2-butenoate (4.87 g, 23.5 mmol) in 3 ml of DMF is added. After 3 hours, the reaction mixture is poured into ether and 5% sodium hydroxide solution. The aqueous layer is extracted with ether, and the organic layers are combined and washed with 5% sodium hydroxide, with water and with brine and dried. Solvent is removed in vacuo and the crude product is chromatographed to give ethyl 3-methyl-4-(4-formyl-2-methoxyphenoxy)-2-butenoate. To isopropyltriphenylphosphonium iodide (2.26 g, 5.23 mmol) in 15 ml of tetrahydrofuran (THF) is added n-butyllithium (1.6 M; 3.10 ml, 5.0 mmol) at -5°. The mixture is cooled to -60°, and ethyl 3-methyl-4-(4-formyl-2-methoxyphenoxy)-2-butenoate (0.70 g, 2.51 mmol) in 10 ml of THF is added. After 45 min. the reaction mixture is poured into ether and water, and the aqueous phase is extracted with ether. The combined ether layers are washed with water and with brine and dried. Solvent is removed in vacuo, and the crude product is triturated with hexane and the hexane-soluble fraction is purified by prep. TLC to give ethyl 3-methyl-4-[2-methoxy-4-(2-methyl-1-propenyl)phenoxy]-2-butenoate, MS m/e 304 (M+).

reactant | isopropyltriphenylphosphonium iodide | 5.23 mmol, 2.26 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 5.0 mmol, 1.6 M, 3.10 ml | C(CCC)[Li]
reactant | ethyl 3-methyl-4-(4-formyl-2-methoxyphenoxy)-2-butenoate | 2.51 mmol, 0.70 g | CC(=CC(=O)OCC)COC1=C(C=C(C=C1)C=O)OC | C15H18O5
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 3-methyl-4-[2-methoxy-4-(2-methyl-1-propenyl)phenoxy]-2-butenoate | CC(=CC(=O)OCC)COC1=C(C=C(C=C1)C=C(C)C)OC | C18H24O4
